US04954509
1-dimethylaminomethyl-7-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide.
1.0 g (4.55 mmoles) of 1-dimethylaminomethyl-7-methoxy-1,2,3,4-tetrahydroisoquinoline was heated two hours at 130° C. with 30 ml of 48% HBr.

reactant | 1-dimethylaminomethyl-7-methoxy-1,2,3,4-tetrahydroisoquinoline | 4.55 mmoles, 1.0 g | CN(C)CC1NCCC2=CC=C(C=C12)OC | C13H20N2O
reactant | HBr | 30 ml | Br | BrH
product | 1-dimethylaminomethyl-7-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | Br.Br.CN(C)CC1NCCC2=CC=C(C=C12)O | InChI=1S/C12H18N2O.2BrH/c1-14(2)8-12-11-7-10(15)4-3-9(11)5-6-13-12;;/h3-4,7,12-13,15H,5-6,8H2,1-2H3;2*1H
